US06413991B1
(2R)-1-(4-Hydroxyphenyl)-2-aminopropane hydrochloride
A hastalloy autoclave was charged with (2R)-1-(4-hydroxyphenyl)-2-(N-[(R)-a-methylbenzyl])amino propane hydrochloride (72.3 g, 248 mmol), 5% Pd/C (16.0 g, wetted with 100 mL of EtOH), and MeOH (400 mL). The autoclave was pressurized to 50 psi H2 and heated to 50° C. for 6 h with vigorous stirring. After cooling, purging with nitrogen and filtering the mixture, the filtrate was concentrated on a rotary evaporator under vacuum. The resulting oily foam was dissolved in a minimal amount of MeOH and was triturated by addition of EtOAc. The solid was filtered, and another crop of solid which precipitated from the filtrate was also collected. The combined solids were dried in a 45° C. vacuum oven overnight to yield 34.2 g (73%) of a white solid. MP 160° C. [dec]. MS(FD+) m/z 151 (92%).

reactant | (2R)-1-(4-hydroxyphenyl)-2-(N-[(R)-a-methylbenzyl])amino propane hydrochloride | 248 mmol, 72.3 g | Cl.OC1=CC=C(C=C1)C[C@@H](C)N[C@@H](C1=CC=CC=C1)C
catalyst | Pd/C | 100 mL, 16.0 g | [Pd] | Pd
solvent | MeOH | 400 mL | CO | CH4O
product | (2R)-1-(4-Hydroxyphenyl)-2-aminopropane hydrochloride | 34.2 g, 73% | Cl.OC1=CC=C(C=C1)C[C@@H](C)N | InChI=1S/C9H13NO.ClH/c1-7(10)6-8-2-4-9(11)5-3-8;/h2-5,7,11H,6,10H2,1H3;1H/t7-;/m1./s1
